US07696216B2
C. Synthesis of [3-(2-methanesulphinyl-ethoxy)-phenyl]-methanol
To a solution of 1.1 g (5.18 mmol) 3-(2-methanesulphinyl-ethoxy)-benzaldehyde in 20 ml ethanol (anhydrous) is added NaBH4 (0.215 g, 5.7 mmol). The reaction mixture is stirred at room temperature for 0.5 h. Then it is poured onto water and extracted with ethyl acetate. The combined organic layers are washed with water and brine, dried over MgSO4, filtered and concentrated in vacuo to afford the title compound as a colorless oil that is of sufficient purity for the next step.

reactant | 3-(2-methanesulphinyl-ethoxy)-benzaldehyde | 5.18 mmol, 1.1 g | CS(=O)CCOC=1C=C(C=O)C=CC1 | C10H12O3S
reactant | NaBH4 | 5.7 mmol, 0.215 g | [BH4-].[Na+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | [3-(2-methanesulphinyl-ethoxy)-phenyl]-methanol | CS(=O)CCOC=1C=C(C=CC1)CO | C10H14O3S
